US04126687
A mixture of 4.94 parts of 1-(4-chlorobutyl)-1,3-dihydro-2H-benzimidazol-2-one, 4.23 parts of 4-(4-chlorophenyl)-4-piperidinol, 5.3 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 20 hours with water-separator. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is crystallized from 4-methyl-2-pentanone. The product is filtered off and dried, yielding 4 parts of 1-{4-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]butyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 160.6° C.

reactant | 1-(4-chlorobutyl)-1,3-dihydro-2H-benzimidazol-2-one | ClCCCCN1C(NC2=C1C=CC=C2)=O | C11H13ClN2O
reactant | 4-(4-chlorophenyl)-4-piperidinol | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-{4-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]butyl}-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC=C(C=C1)C1(CCN(CC1)CCCCN1C(NC2=C1C=CC=C2)=O)O | C22H26ClN3O2
